US06121308
1-(3-hydroxycarbonylpropyl)-2-[(4-amidinophenyl)-oxymethyl]-5-(quinoline-8-sulphonylamino)-benzimidazole
Prepared analogously to Example 3 from 1-(3-ethoxycarbonylpropyl)-2-[(4-amidinophenyl)-oxymethyl]-5-(quinoline-8-sulphonylamino)-benzimidazole and sodium hydroxide solution.

reactant | 1-(3-ethoxycarbonylpropyl)-2-[(4-amidinophenyl)-oxymethyl]-5-(quinoline-8-sulphonylamino)-benzimidazole | C(C)OC(=O)CCCN1C(=NC2=C1C=CC(=C2)NS(=O)(=O)C=2C=CC=C1C=CC=NC21)COC2=CC=C(C=C2)C(N)=N | C30H30N6O5S
reactant | sodium hydroxide | [OH-].[Na+]
product | 1-(3-hydroxycarbonylpropyl)-2-[(4-amidinophenyl)-oxymethyl]-5-(quinoline-8-sulphonylamino)-benzimidazole | OC(=O)CCCN1C(=NC2=C1C=CC(=C2)NS(=O)(=O)C=2C=CC=C1C=CC=NC21)COC2=CC=C(C=C2)C(N)=N | C28H26N6O5S
